US04367238
An aqueous solution (100 ml) of potassium hydroxide (17.0 g) was added all at once to a mixture of 2-(2-chlorophenoxy)-6-allylphenol (22.0 g) and dimethyl sulfate (23.0 g) under cooling. The mixture was stirred at room temperature for 30 minutes and extracted with diethyl ether. The extract was washed with water 3 times, dried over magnesium sulfate and then evaporated. The oily residue was subjected to distillation under reduced pressure to give colorless oil of 2-chlorophenyl 2-methoxy-3-allylphenyl ether (22.0 g). bp 149° C./0.8 mmHg.

reactant | 2-(2-chlorophenoxy)-6-allylphenol | 22.0 g | ClC1=C(OC2=C(C(=CC=C2)CC=C)O)C=CC=C1 | C15H13ClO2
reactant | dimethyl sulfate | 23.0 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | potassium hydroxide | 100 ml, 17.0 g | [OH-].[K+]
product | 2-chlorophenyl 2-methoxy-3-allylphenyl ether | 22.0 g | COC1=C(C=CC=C1CC=C)OC1=C(C=CC=C1)Cl | C16H15ClO2
